US08278341B2
(1-(3-(2,10-dichloro-5,7-dihydroindolo[2,3-b]carbazol-6-yloxy)propyl)piperidin-3-yl)methanamine
The title compound was prepared in a manner analogous to Example 70 except the staring material is 5,7-diBOC-2,10-dichloro-6-(3-bromopropoxy)indolo[2,3-b]carbazole and the reagent is 3-(Boc-aminomethyl)piperidine. The reaction can be completed at room temperature overnight 1H-NMR (400 MHz, CDCl3) δ ppm 9.76 (s, 2H), 8.34 (s, 1H), 8.08 (s, 2H), 7.40-7.31 (m, 4H), 4.35 (t, J=5.6 Hz, 2H), 3.35-3.20 (m, 2H), 2.89-2.75 (m, 2H), 2.70-2.53 (m, 2H), 2.18-1.71 (m, 9H), 1.17-1.03 (m, 2H); MS (ESI) m/z 493.2 (M−H)−; MS (ESI) m/z 495.1 (M+H)+

reactant | 5,7-diBOC-2,10-dichloro-6-(3-bromopropoxy)indolo[2,3-b]carbazole | C(=O)(OC(C)(C)C)N1C2=CC=C(C=C2C=2C=C3C(=C(C12)OCCCBr)N(C=1C=CC(=CC13)Cl)C(=O)OC(C)(C)C)Cl | C31H31BrCl2N2O5
reactant | 3-(Boc-aminomethyl)piperidine | C(=O)(OC(C)(C)C)C(C1CNCCC1)N | C11H22N2O2
product | (1-(3-(2,10-dichloro-5,7-dihydroindolo[2,3-b]carbazol-6-yloxy)propyl)piperidin-3-yl)methanamine | 99% yield | ClC=1C=C2C=3C=C4C(=C(C3NC2=CC1)OCCCN1CC(CCC1)CN)NC=1C=CC(=CC14)Cl | C27H28Cl2N4O
